US04798892
A solution of 14.3 g (0.1 mole) of dimethylsulfamoyl chloride in 50 ml of methylene chloride was added dropwise to a rapidly stirred solution of 10.2 g (0.1 mole) of acetylethylene diamine and 10.1 g (0.1 mole) of triethylamine in 150 ml of methylene chloride at 25° C. After the addition was completed, the solution was stirred for 30 min and then washed in a separatory funnel with two 100 ml portions of water. The organic phase was separated, and dried over MgSO4, and then concentrated under reduced pressure to afford N-[2[(dimethylamino)sulfonylamino]ethyl]acetamide as an oil. The N-acetyl group was then removed by treatment of the oil with 100 ml of 15% HCl at 80° C. for 6 h. This solution was concentrated under reduced pressure to provide 12.6 g (73%) of product as an oil. The NMR spectrum was consistent with the assigned structure.

reactant | dimethylsulfamoyl chloride | 0.1 mole, 14.3 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | acetylethylene diamine | 0.1 mole, 10.2 g | C(C)(=O)NCCN | C4H10N2O
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-[2[(dimethylamino)sulfonylamino]ethyl]acetamide | CN(S(=O)(=O)NCCNC(C)=O)C | C6H15N3O3S
